US08044062B2
To a crude solution of N-isopropyl-6-methyl-2-(methylthio)pyrimidin-4-amine (44.6 g, 224 mmol), prepared using analogous procedures as described in Example 1, in 400 mL of methanol was added ICl (40.0 g, 246 mmol) in small portions at room temperature. The reaction mixture was then stirred at for 3 h monitoring by LC/MS. After evaporation of solvent by rotary evaporator, the residue was triturated with acetone to yield 5-iodo-N-isopropyl-6-methyl-2-(methylthio)pyrimidin-4-amine. 1H NMR (400 MHz, CDCl3) δ 6.37 (br m, 1H), 4.47 (m, 1H), 2.78 (s, 3H), 2.67 (s, 3H), 1.41 (d, J=6.4, 6H).

reactant | N-isopropyl-6-methyl-2-(methylthio)pyrimidin-4-amine | 224 mmol, 44.6 g | C(C)(C)NC1=NC(=NC(=C1)C)SC | C9H15N3S
reactant | ICl | 246 mmol, 40.0 g | ICl | ClI
solvent | methanol | 400 mL | CO | CH4O
product | 5-iodo-N-isopropyl-6-methyl-2-(methylthio)pyrimidin-4-amine | IC=1C(=NC(=NC1C)SC)NC(C)C | C9H14IN3S
